US09388189B2
b) 4-Amino-6-chloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide (684 mg, 1.21 mmol) was dissolved in dioxane (5 ml) and cooled in an ice bath. Ammonia solution (0.86 ml, 7N in MeOH) was added dropwise and the mixture was stirred at 0° C. for 6 h and overnight at room temperature. After dilution with ethyl acetate, this organic phase was washed with water and brine, dried over magnesium sulphate, filtered and the solvents evaporated under reduced pressure, to yield an oil as a residue (575 mg, 66% purity, 100% yield) which was used in the next synthetic step without further purification.

reactant | 4,6-Dichloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide | 1.21 mmol, 684 mg | ClC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)OC)Cl | C13H11Cl2N3O3
reactant | Ammonia | 7N, 0.86 ml | N | H3N
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-chloro-N-(3,5-dimethoxyphenyl)pyrimidine-5-carboxamide | 100% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)OC)OC)Cl | C13H13ClN4O3
